* C:\Users\NAGARAJ V REDDY\Documents\NES\1SEM\NNMHA\Neuro-transistor-Simulation-with-Memristor-based-Memcapacitor-using-LTSPICE\src\task4\temp\task4a.asc
V N001 0 PWL file=task4_input.txt
XU1 N001 0 x dxdt MEM_NAMLAB
.tran 2
.param x0=100m
; Simulation Settings
.lib C:\Users\NAGARAJ V REDDY\Documents\NES\1SEM\NNMHA\Neuro-transistor-Simulation-with-Memristor-based-Memcapacitor-using-LTSPICE\src\base\MEM_NAMLAB.cir
.backanno
.end
